US07368472B2
1a {2-Amino-4-[(5-fluoro-benzofuran-3-ylmethyl)-amino]-phenyl}-carbamic acid ethyl ester
{4-[(5-Fluoro-benzofuran-3-ylmethyl)-amino]-2-nitro-phenyl}-carbamic acid ethyl ester (4.50 g, 12.1 mmol) was dissolved in absolute ethanol (140 mL) whereto 6N aqueous HCl (38 mL) and iron powder (5.70 g, 0.10 mol) was added. The red mixture was heated at 60° C. until the intense colour disappeared (20 minutes). The solids were filtered off and the ethanol was removed from the filtrate by evaporation in vacuo. Aqueous ammonia (saturated) was added to the remanence, which was then extracted with ethyl acetate (3×100 mL). The combined organic fractions were washed with brine, dried (MgSO4) and concentrated in vacuo. The crude product was purified by chromatography on silica gel (eluent:ethyl acetate:heptane 1:1) to furnish 2.70 g (66%) of the title compound as a solid. M.p. 150-151° C. Calculated for C18H18FN3O3: C, 62.96; H, 5.28; N, 12.24. Found: C, 63.00; H, 5.38; N, 12.13. LC/MS (m/z) 344 (MH+); tR=2.00 min. 1H NMR (DMSO-d6): 1.19 (t, 3H); 4.03 (q, 2H); 4.26 (d, 2H); 4.55 (s, 2H, NH2); 5.79 (t, 1H); 5.91 (dd, 1H); 6.02 (d, 1H, NH); 6.72 (d, 1H); 7.13 (dt, 1H); 7.56 (m, 2H); 7.95 (s, 1H); 8.16 (b, 1H, NH).

reactant | {4-[(5-Fluoro-benzofuran-3-ylmethyl)-amino]-2-nitro-phenyl}-carbamic acid ethyl ester | 12.1 mmol, 4.50 g | C(C)OC(NC1=C(C=C(C=C1)NCC1=COC2=C1C=C(C=C2)F)[N+](=O)[O-])=O | C18H16FN3O5
solvent | ethanol | 140 mL | C(C)O | C2H6O
solvent | HCl | 6N, 38 mL | Cl | ClH
catalyst | iron | 0.10 mol, 5.70 g | [Fe] | Fe
product | {2-Amino-4-[(5-fluoro-benzofuran-3-ylmethyl)-amino]-phenyl}-carbamic acid ethyl ester | 2.70 g, 66% | C(C)OC(NC1=C(C=C(C=C1)NCC1=COC2=C1C=C(C=C2)F)N)=O | C18H18FN3O3
